US04507498
A mixture of 6.0 g of (4-acetyl-3-hydroxy-2-propylphenoxy)acetic acid ethyl ester, 29 ml of 1,5-dibromopentane and 2.2 g of anhydrous potassium carbonate in 150 ml of anhydrous acetone was stirred at reflux. Additional portions (2.2 g) of potassium carbonate were added at 5, 21, 29 and 38 hours. Reflux was maintained for a total of 69 hours. The reaction mixture was filtered and the filtrate was concentrated in vacuo to a yellow oil which was purified by chromatography on 100 g of silica gel. Elution with 25% ethyl acetate-hexane gave 9.2 g (100%) of [4-acetyl-3-[(5-bromopentyl)oxy]-2-propylphenoxy]acetic acid ethyl ester as an oil.

reactant | (4-acetyl-3-hydroxy-2-propylphenoxy)acetic acid ethyl ester | 6.0 g | C(C)OC(COC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C15H20O5
reactant | 1,5-dibromopentane | 29 ml | BrCCCCCBr | C5H10Br2
reactant | potassium carbonate | 2.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 2.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | [4-acetyl-3-[(5-bromopentyl)oxy]-2-propylphenoxy]acetic acid ethyl ester | 9.2 g, 100% | C(C)OC(COC1=C(C(=C(C=C1)C(C)=O)OCCCCCBr)CCC)=O | C20H29BrO5
